US05863936
A 100 ml 3-necked round-bottomed flask, reflux condenser, thermometer adapter, gas inlet, and Teflon stirrer were oven-dried for 12 hours at 160° C. The apparatus was rapidly assembled, fitted with a thermometer, flushed with dry nitrogen gas, sealed with rubber septa and allowed to cool to room temperature. The cooled reaction flask was charged with anhydrous dimethyl sulfoxide (40 ml), 2-fluorobenzaldehyde (4.44 g, 31.53 mmole), anhydrous triethylamine (2.5 equivalents, 78.83 mmole, 7.976 g, 11 ml) and methyl thioglycolate (1.1 equivalents, 3.681 g, 3.10 ml, 34.68 mmole) and heated to 75° C. with rapid stirring. The progress of the reaction was monitored by TLC (silica, 10% dichloromethane-hexane, UV visualization). After 18 hours the reaction mixture was cooled to room temperature and poured onto an ice/water bath (250 ml). The resulting slurry was stirred for 20 minutes, filtered, washed with cold water (2×100 ml) and dried in vacuo to give 5.136 g (85%) of methyl benzo[b]thiophene-2-carboxylate.

reactant | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
reactant | 2-fluorobenzaldehyde | 31.53 mmole, 4.44 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | triethylamine | 78.83 mmole, 11 ml, 7.976 g, 2.5 equivalents | C(C)N(CC)CC | C6H15N
reactant | methyl thioglycolate | 34.68 mmole, 3.10 ml, 3.681 g, 1.1 equivalents | C(CS)(=O)OC | C3H6O2S
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | methyl benzo[b]thiophene-2-carboxylate | 5.136 g, 85% | S1C2=C(C=C1C(=O)OC)C=CC=C2 | C10H8O2S
